US04328169
To demonstrate the versatility of the process, 16 g (0.1 mol) diethyl malonate and 62.55 g of a block copolymer of ethylene oxide and polypropylene oxide having an average molecular weight of about 13,300 (Pluronic® 127) were charged to a reactor. Methylene dichloride (100 mls.) and 11.2 g solid potassium hydroxide (90%) were added and the mixture vigorously agitated while maintaining the temperature at or below 35° C. The 1,4-dichlorobutene-2 (12.4 g; 0.1 mol) was then added over a 5 minute period. About 22% conversion to diethyl 2-vinylcyclopropane-1,1-dicarboxylate was obtained after one hour of reaction. The reaction was continued to obtain essentially complete conversion of the reactants to the desired vinylcyclopropane product.

reactant | diethyl malonate | 0.1 mol, 16 g | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | ethylene oxide | C1CO1 | C2H4O
reactant | potassium hydroxide | [OH-].[K+]
reactant | 1,4-dichlorobutene-2 | 0.1 mol, 12.4 g | C(/C=C/CCl)Cl | C4H6Cl2
solvent | Methylene dichloride | 100 mls | C(Cl)Cl | CH2Cl2
product | diethyl 2-vinylcyclopropane-1,1-dicarboxylate | C(=C)C1C(C1)(C(=O)OCC)C(=O)OCC | C11H16O4
